US07855194B2
[4-(2-Fluoro-phenyl)-quinazolin-2-yl]-piperidin-4-yl-amine dihydrochloride
A solution of 4-[4-(2-fluoro-phenyl)-quinazolin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.86 g, 2.04 mmol) in ethanol (5 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 322.9 [M+H]+.

reactant | 4-[4-(2-fluoro-phenyl)-quinazolin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 2.04 mmol, 0.86 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C(=N1)C1=C(C=CC=C1)F | C24H27FN4O2
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | [4-(2-Fluoro-phenyl)-quinazolin-2-yl]-piperidin-4-yl-amine dihydrochloride | Cl.Cl.FC1=C(C=CC=C1)C1=NC(=NC2=CC=CC=C12)NC1CCNCC1 | InChI=1S/C19H19FN4.2ClH/c20-16-7-3-1-5-14(16)18-15-6-2-4-8-17(15)23-19(24-18)22-13-9-11-21-12-10-13;;/h1-8,13,21H,9-12H2,(H,22,23,24);2*1H
